US08466290B2
N-[5-(2-furyl)-1,3,4-oxadiazol-2-yl]-2-(2-nitrophenyl)-4-quinolinecarboxamide (compound Ia-39)
The title compound was synthesized according to the synthesis method of a compound Ia-46 described later using 2-(2-nitrophenyl)-4-quinolinecarboxylic acid described in Reference Example 7, HBTU, and HOBt instead of 2-(4-fluorophenyl)-4-quinolinecarboxylic acid, HATU, and HOAt, respectively.

reactant | 2-(2-nitrophenyl)-4-quinolinecarboxylic acid | [N+](=O)([O-])C1=C(C=CC=C1)C1=NC2=CC=CC=C2C(=C1)C(=O)O | C16H10N2O4
reactant | HBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOAt | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
product | N-[5-(2-furyl)-1,3,4-oxadiazol-2-yl]-2-(2-nitrophenyl)-4-quinolinecarboxamide | O1C(=CC=C1)C1=NN=C(O1)NC(=O)C1=CC(=NC2=CC=CC=C12)C1=C(C=CC=C1)[N+](=O)[O-] | C22H13N5O5
